.SUBCKT BSS131_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.074

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.223  VTO=1.6  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    6.07 TC=11m
.MODEL MVDR NMOS (KP=0.55 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=290   M=0.5  CJO=34.44p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=7p  N=1.2  RS=475u  EG=1.12  TT=60n)
Rdiode  d1  21    714.29m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   99.4p
.MODEL     DGD    D(M=1   CJO=99.4p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    55.44p

.ENDS  BSS131_L0

******

.SUBCKT BSS87_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.082

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.486  VTO=1.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    3.15 TC=11m
.MODEL MVDR NMOS (KP=1.05 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=290   M=0.5  CJO=66.42p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=13.5p  N=1.2  RS=246u  EG=1.12  TT=60n)
Rdiode  d1  21    370.37m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   180.9p
.MODEL     DGD    D(M=0.76   CJO=180.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    75.06p

.ENDS  BSS87_L0

******

.SUBCKT BSP89_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.486  VTO=1.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    3.15 TC=11m
.MODEL MVDR NMOS (KP=1.05 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=290   M=0.5  CJO=66.42p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=13.5p  N=1.2  RS=246u  EG=1.12  TT=60n)
Rdiode  d1  21    370.37m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   180.9p
.MODEL     DGD    D(M=0.76   CJO=180.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    75.06p

.ENDS  BSP89_L0

******

.SUBCKT BSP88_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.486  VTO=1.3  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    3.15 TC=11m
.MODEL MVDR NMOS (KP=0.89 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=290   M=0.5  CJO=66.42p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=13.5p  N=1.2  RS=246u  EG=1.12  TT=60n)
Rdiode  d1  21    370.37m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   180.9p
.MODEL     DGD    D(M=0.77   CJO=180.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    75.06p

.ENDS  BSP88_L0

******

.SUBCKT BSP129_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.486  VTO=-0.85  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    3.15 TC=11m
.MODEL MVDR NMOS (KP=1.05 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=290   M=0.5  CJO=66.42p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=13.5p  N=1.2  RS=246u  EG=1.12  TT=60n)
Rdiode  d1  21    370.37m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   180.9p
.MODEL     DGD    D(M=0.66   CJO=180.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    75.06p

.ENDS  BSP129_L0

******

.SUBCKT SISC0_97N24D_L0  drain  gate  source




Rs      source    s2   0.005

Rg     gate    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.486  VTO=-0.85  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    3.15 TC=11m
.MODEL MVDR NMOS (KP=1.05 VTO=-1.4   LAMBDA=0.15)
Mr drain d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=290   M=0.5  CJO=66.42p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=13.5p  N=1.2  RS=246u  EG=1.12  TT=60n)
Rdiode  drain  21    370.37m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   180.9p
.MODEL     DGD    D(M=0.66   CJO=180.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    75.06p

.ENDS  SISC0_97N24D_L0

******

.SUBCKT BSS139_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.074

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.223  VTO=-0.89  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    7.14 TC=11m
.MODEL MVDR NMOS (KP=0.55 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=295   M=0.5  CJO=34.44p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=7p  N=1.2  RS=475u  EG=1.12  TT=60n)
Rdiode  d1  21    714.29m TC=1m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   106.12p
.MODEL     DGD    D(M=0.66   CJO=106.12p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    55.44p

.ENDS  BSS139_L0

******

.SUBCKT BSP324_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.273  VTO=2.27  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    12.23 TC=11m
.MODEL MVDR NMOS (KP=0.4 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=495   M=0.5  CJO=57.81p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=11.8p  N=1.2  RS=283u  EG=1.12  TT=80n)
Rdiode  d1  21    425.53m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   220.9p
.MODEL     DGD    D(M=0.97   CJO=220.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    95.88p

.ENDS  BSP324_L0

******

.SUBCKT SISC1_4N40E_L0  drain  gate  source




Rs      source    s2   0.005

Rg     gate    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.273  VTO=2.27  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    12.23 TC=11m
.MODEL MVDR NMOS (KP=0.4 VTO=-1.4   LAMBDA=0.15)
Mr drain d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=495   M=0.5  CJO=57.81p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=11.8p  N=1.2  RS=283u  EG=1.12  TT=80n)
Rdiode  drain  21    425.53m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   220.9p
.MODEL     DGD    D(M=0.97   CJO=220.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    95.88p

.ENDS  SISC1_4N40E_L0

******

.SUBCKT BSP125_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.273  VTO=2.27  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    23.4 TC=11m
.MODEL MVDR NMOS (KP=0.24 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=57.81p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=11.8p  N=1.2  RS=283u  EG=1.12  TT=130n)
Rdiode  d1  21    425.53m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   220.9p
.MODEL     DGD    D(M=1   CJO=220.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    95.88p

.ENDS  BSP125_L0

******

.SUBCKT BSS225_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.273  VTO=2.27  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    23.4 TC=11m
.MODEL MVDR NMOS (KP=0.24 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=57.81p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=11.8p  N=1.2  RS=283u  EG=1.12  TT=130n)
Rdiode  d1  21    425.53m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   220.9p
.MODEL     DGD    D(M=1   CJO=220.9p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    95.88p

.ENDS  BSS225_L0

******

.SUBCKT BSP135_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.273  VTO=-0.93  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    21.91 TC=11m
.MODEL MVDR NMOS (KP=0.24 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=57.81p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=11.8p  N=1.2  RS=283u  EG=1.12  TT=130n)
Rdiode  d1  21    425.53m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   213.85p
.MODEL     DGD    D(M=0.7   CJO=213.85p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    95.88p

.ENDS  BSP135_L0

******

.SUBCKT SISC1_4N60D_L0  drain  gate  source




Rs      source    s2   0.005

Rg     gate    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.273  VTO=-0.93  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    21.91 TC=11m
.MODEL MVDR NMOS (KP=0.24 VTO=-1.4   LAMBDA=0.15)
Mr drain d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=57.81p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=11.8p  N=1.2  RS=283u  EG=1.12  TT=130n)
Rdiode  drain  21    425.53m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   213.85p
.MODEL     DGD    D(M=0.7   CJO=213.85p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    95.88p

.ENDS  SISC1_4N60D_L0

******

.SUBCKT BSS127_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.074

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.023  VTO=2.27  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    275 TC=11m
.MODEL MVDR NMOS (KP=0.02 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=4.92p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=1p  N=1.2  RS=3325u  EG=1.12  TT=130n)
Rdiode  d1  21    5000m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   18.8p
.MODEL     DGD    D(M=1   CJO=18.8p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    8.16p

.ENDS  BSS127_L0

******

.SUBCKT BSS126_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.074

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.03  VTO=-1.53  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    275 TC=11m
.MODEL MVDR NMOS (KP=0.02 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=4.92p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=1p  N=1.2  RS=3325u  EG=1.12  TT=130n)
Rdiode  d1  21    5000m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   24p
.MODEL     DGD    D(M=0.6   CJO=24p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    20p

.ENDS  BSS126_L0

************

.SUBCKT BSP300_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    2n
Ls     source s1   3n
Rs      s1    s2   0.074

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.4  VTO=3.4  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    15 TC=5.5m

.MODEL MVDR NMOS (KP=3.83 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=800   M=0.5  CJO=200p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=3p  N=1  RS=30u  EG=1.12  TT=700n)
Rdiode  d1  21    0.8 TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   900p
.MODEL     DGD    D(M=0.97   CJO=400p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    170p

.ENDS  BSP300_L0
